US07863290B2
0.28 g (1.14 mmol) of (−)-5-(azabicyclo[3.2.1]oct-5-yl)-N-hydroxypyridine-2-carboximidamide, prepared in step 7.1, dissolved in 10 ml of pyridine is introduced into a 10 ml reactor. 0.1 ml (1.13 mmol) of acetic anhydride is then added and the medium is stirred at room temperature for 15 hours and then heated at 110° C. for 5 hours. The solvent is concentrated under reduced pressure and the residue is taken up in saturated aqueous sodium carbonate solution. The aqueous phase is extracted with chloroform and the combined organic phases are dried over sodium sulfate, filtered and evaporated under vacuum. The residue is purified by chromatography on a column of silica gel, eluting with a mixture of chloroform, methanol and aqueous ammonia in 96/4/0.4 proportions. 0.077 g of (−)-5-[2-(5-methyl-1,2,4-oxadiazol-3-yl)pyrid-5-yl]-1-azabicyclo[3.2.1]octane is thus obtained, and is dissolved in 1 ml of isopropyl alcohol to add 0.05 ml of a 5.7N solution of hydrobromic acid in acetic acid. The crystals obtained are collected by filtration and dried under reduced pressure.

reactant | (−)-5-(azabicyclo[3.2.1]oct-5-yl)-N-hydroxypyridine-2-carboximidamide | 1.14 mmol, 0.28 g | N12CCCC(CC1)(C2)C=2C=CC(=NC2)C(NO)=N | C13H18N4O
reactant | acetic anhydride | 1.13 mmol, 0.1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | (−)-5-[2-(5-methyl-1,2,4-oxadiazol-3-yl)pyrid-5-yl]-1-azabicyclo[3.2.1]octane | 0.077 g | CC1=NC(=NO1)C1=NC=C(C=C1)C12CCCN(CC1)C2 | C15H18N4O
